US07910611B2
2-(tert-Butoxycarbonylamino)acetophenone (3.00 g) was dissolved in methanol (21.0 mL). To the solution was added an aqueous solution (water: 9.0 mL) of thiosemicarbazide hydrochloride (3.11 g, 24.4 mmol) at room temperature. After the mixture was stirred at the same temperature for 30 minutes, water (12.0 mL) was added, and the mixture was stirred at room temperature for 20 minutes and then at 0° C. for 1 hour. The deposited solid was collected by filtration and washed with cooled 50% aqueous methanol (20 mL). The resulting solid was dried at 40° C. under reduced pressure to give seed crystals of 2-(tert-butoxycarbonylamino)acetophenone thiosemicarbazone (3.56 g, yield: 95.1%) as a white solid.

reactant | 2-(tert-Butoxycarbonylamino)acetophenone | 3.00 g | C(C)(C)(C)OC(=O)NCC(=O)C1=CC=CC=C1 | C13H17NO3
reactant | thiosemicarbazide hydrochloride | 24.4 mmol, 9.0 mL, 3.11 g | Cl.NNC(=S)N
reactant | water | 12.0 mL | O | H2O
solvent | methanol | 21.0 mL | CO | CH4O
product | 2-(tert-butoxycarbonylamino)acetophenone thiosemicarbazone | 3.56 g, yield: 95.1% | C(C)(C)(C)OC(=O)NCC(C1=CC=CC=C1)=NNC(=S)N | C14H20N4O2S
